US08058431B2
4) 6-Methoxy-1-methyl-2-phenyl-1H-quinazolin-4-one
1.00 g (5.55 mmol) 5-Methoxy-2-methylamino-benzamide were dissolved in 25 ml trichloromethane and 2.34 g (1.93 ml, 16.6 mmol) benzoyl chloride were added. The mixture was boiled for 90 min. After filtration the residue was dissolved in trichloromethane and saturated sodium bicarbonate solution. The organic solution was dried over magnesium sulfate and evaporated under vacuum.

reactant | 5-Methoxy-2-methylamino-benzamide | 5.55 mmol, 1.00 g | COC=1C=CC(=C(C(=O)N)C1)NC | C9H12N2O2
reactant | benzoyl chloride | 16.6 mmol, 1.93 ml, 2.34 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | trichloromethane | 25 ml | ClC(Cl)Cl | CHCl3
product | 6-Methoxy-1-methyl-2-phenyl-1H-quinazolin-4-one | COC=1C=C2C(N=C(N(C2=CC1)C)C1=CC=CC=C1)=O | C16H14N2O2
